### ISSUE TITLE
`simp +ground` error with a cryptic message

### ISSUE THREAD

**Issue by mdbrnowski** [leanprover/lean4#12620]
### Prerequisites

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

In the snippet below, `simp +ground` fails with "Unknown constant `_inhabitedExprDummy`".
If I remove `+ground`, remove the cast to `Rat`, or even keep the cast to `Rat` but remove the division by `const`, there is no error.

```lean4
import Mathlib.Data.Rat.Cast.Order

structure MyStruct (n : Nat) where
  vec : Vector Nat n
  const : Nat

theorem th {n : Nat} (s : MyStruct n) (i : Fin n) (h : s.const = 1) :
    s.vec[i] = (s.vec[i] : Rat) / s.const := by
  simp [h]

example : True := by
  let s : MyStruct _ := {
    vec := #v[1, 2, 3, 4]
    const := 1,
  }
  have := th s 3 (by decide)
  unfold s at this
  simp +ground at this  -- Error: Unknown constant `_inhabitedExprDummy`
  trivial

```

Sorry for the silly example 😅.

### Versions

Lean 4.28.0
Target: x86_64-unknown-linux-gnu

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by mdbrnowski** [comment]
I found some time to do additional research and came across a simpler (Mathlib-free) example that reproduces the error:

```lean4
class A (α : Type) where
  a : α

class B (α : Type) extends A α where
  b : α
  hb : b = b

example (x y : Nat) (h : x = y) :
    (@B.mk Nat ⟨0⟩ x rfl) = (@B.mk Nat ⟨0⟩ y rfl) := by
  simp +ground [h]
```
